US05137918
N (2'-Nitrophenyl)-4-benzyloxyacetaminobenzamide
28.5 g (0.39 mole) dry dimethylformamide in 910 mL dry ethyl acetate are mixed dropwise at 2° C., under an atmosphere of nitrogen, with 21.5 g (0.17 mole) oxalyl chloride. After stirring for 30 minutes at 2°-5° C., a suspension of 37.2 g (0.13 mole) 4-benzyloxyacetaminobenzoic acid and 14.4 g (0.18 mole) pyridine in 65 mL ethyl acetate are added thereto and the ice bath is removed. After stirring for 2.5 hours at ambient temperature, the reaction mixture is mixed with a solution of 19.8 g (0.14 mole) o-nitroaniline and 14.4 g (0.18 mole) pyridine in 65 mL ethyl acetate. After stirring for 1 hour at ambient temperature, the reaction mixture is heated to the boil for 3 hours. After cooling, it is mixed with 500 mL IN aqueous sodium hydroxide solution and the phases are separated. The aqueous phase is shaken out twice with ethyl acetate. The combined organic phases are washed neutral with water and dried over anhydrous sodium sulfate. The solvent is evaporated to 150 mL and the precipitated crystals are filtered off with suction and recrystallized from 700 mL ethanol. Yield 13 g (24.7% of theory); m.p 128°-130° C.

reactant | dimethylformamide | 0.39 mole, 28.5 g | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.17 mole, 21.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-benzyloxyacetaminobenzoic acid | 0.13 mole, 37.2 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)NC(=O)C | C16H15NO4
reactant | pyridine | 0.18 mole, 14.4 g | N1=CC=CC=C1 | C5H5N
reactant | o-nitroaniline | 0.14 mole, 19.8 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | pyridine | 0.18 mole, 14.4 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 910 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 65 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 65 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | [OH-].[Na+]
product | (2'-Nitrophenyl)-4-benzyloxyacetaminobenzamide | [N+](=O)([O-])C1=C(C=CC=C1)C=1C(=C(C(=O)N)C=CC1OCC1=CC=CC=C1)NC(=O)C | C22H19N3O5
